US07652015B2
Dissolve 4-methyl-5-nitro-pyridin-2-ylamine (3.0 mmol, 0.5 g) in 0.5 mL of sulfuric acid. Add 7.6 mL of water and cool the solution down to 0° C. Add sodium nitrite (4.5 mmol, 0.3 g) and stir the mixture for two hours, allowing to reach room temperature. Dilute with water and add aq. sodium hydroxide solution 10% until basic pH. Extract in ethyl acetate and wash combined organic layers with saturated aq. sodium chloride solution. Dry over sodium sulfate, filter, and concentrate under reduced pressure to give 4-methyl-5-nitro-pyridin-2-ol. MS(ES): m/z=155 [M+H].

reactant | 4-methyl-5-nitro-pyridin-2-ylamine | 3.0 mmol, 0.5 g | CC1=CC(=NC=C1[N+](=O)[O-])N | C6H7N3O2
reactant | sodium nitrite | 4.5 mmol, 0.3 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 7.6 mL | O | H2O
product | 4-methyl-5-nitro-pyridin-2-ol | CC1=CC(=NC=C1[N+](=O)[O-])O | C6H6N2O3
